US06884821B1
Ethyl 2-chloroacetoacetate and 1-cyclopentane carbothioamide were treated as the starting materials by the same method as in Production Example 203, to give 2-cyclopentyl-5-methyl-1,3-thiazole-4-carboxylic acid.

reactant | Ethyl 2-chloroacetoacetate | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | 1-cyclopentane carbothioamide | C1(CCCC1)C(N)=S | C6H11NS
product | 2-cyclopentyl-5-methyl-1,3-thiazole-4-carboxylic acid | C1(CCCC1)C=1SC(=C(N1)C(=O)O)C | C10H13NO2S
